Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Failure to take PO  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ is a ___ with history of HTN, HLD, possible 
seizure disorder on carbamazepine and advanced Alzheimer's 
dementia, nonverbal at baseline for the last ___ years, who 
presents with her husband and full time PCA with chief complain 
of failure to take PO. Over the last 4 days she has been 
increasingly fatigued/somnolent and decreased oral intake.  

She was diagnosed with AD ___ years ago and is followed by Dr. 
___ in neurology at ___. At her ___ ___ appointment, it 
was noted that a HCP form was filled out and the patient was 
made DNI/DNR. At that visit she was also noted to have had poor 
PO intake for 3 days. This self-resolved without treatment. 
Regarding her seizure history, husband relates that she would 
become lightheaded but never had GTC movements. She has had no 
episodes in the past ___ years.  

In the ED, initial VS were: 97.9 62 ___ 92% RA  
 
 Imaging showed:  
 CXR:  
 Lungs are clear besides mild left basilar atelectasis. There is 
no  
 consolidation, effusion, or edema. The cardiomediastinal 
silhouette is within normal limits. Atherosclerotic 
calcifications noted at the aortic arch. No acute osseous 
abnormalities.  
 
 Received:  
 ___ 14:03 IVF NS  
 ___ 16:01 IV Potassium Chloride (40 mEq ordered)  
 ___ 17:00 IVF NS 500 mL  
 ___ 18:06 IVF NS  
 ___ 18:47 IVF NS 1 mL  
 
 Decision was made to admit to medicine for further management.  

 On arrival to the floor, VS: 98.9 144/72 18 99RA  
 Pt interviewed with her husband and ___ in the room. History 
obtained from them given the patient is unable to answer 
questions. They report that she has had decreased oral intake 
over the last week and her mood has not been the same. They 
report that she is unable to report any symptoms, although they 
have not noticed her having recent coughs, fevers or diarrhea.  
 
Past Medical History:
 Hypertension  
 HLD  
 Alzheimer's dementia  
 ?Seizures  
 
Social History:
___
Family History:
Father: AD, heart disease, DM2  
Mother: None  
No children  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
 VS: 98.9 144/72 71 18 99RA  
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
dry MM  
 NECK: nontender supple neck, no JVD  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: opens eyes to voice, does not respond to questions, 
EOMI, PERRLA, face symmetric, moving all four extremities  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM
======================
VS: 98.0 116 / 63 65 18 91 Ra  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, dentures 
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: opens eyes to voice, does not respond to questions, EOMI, 
PERRLA, face symmetric, moving all four extremities 
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
ADMISSION LAB RESULTS
===================
___ 01:10PM BLOOD WBC-13.4* RBC-4.77 Hgb-13.8 Hct-43.9 
MCV-92 MCH-28.9 MCHC-31.4* RDW-12.6 RDWSD-42.6 Plt ___
___ 01:10PM BLOOD Glucose-96 UreaN-26* Creat-0.8 Na-144 
K-3.2* Cl-103 HCO3-26 AnGap-18
___ 01:10PM BLOOD ALT-74* AST-55* AlkPhos-136* TotBili-0.5
___ 01:10PM BLOOD Albumin-4.4 Calcium-9.8 Phos-3.8 Mg-2.4
___ 01:10PM BLOOD Carbamz-3.9*
___ 01:58PM BLOOD Lactate-2.1*

DISCHARGE LAB RESULTS
====================
None

MICROBIOLOGY
============
___ Blood Culture: pending
___ Urine Culture: pending

IMAGING/STUDIES
==============
___ CXR:
No acute cardiopulmonary process.

___ RUQ Ultrasound:
Unremarkable appearance of the gallbladder.  No intra or 
extrahepatic biliary
dilatation identified.
 
Brief Hospital Course:
___ is a ___ with history of HTN, HLD, possible seizure 
disorder, and advanced Alzheimer's dementia who presents with 
recent poor oral intake, improved again during this admission, 
now discharged with home ___ to hospice transition with ___ 
hospice. The waxing and waning oral intake was felt to be a 
natural progression of her dementia.  

TRANSITIONAL ISSUES: 
====================================
CODE STATUS: DNR/DNI
CONTACT: 
- ___ (___) ___, fax 
___
_________________________
FYI: 
- Patient set up with ___ hospice. They will provide ___ 
services now. When she stops eating completely, they will 
transition to hospice care at home. 
- ___ is also helping set the family up with more resources 
at home, of note comfort care such as an air mattress for 
PCA/friend ___
_________________________
TO DO: 
[ ] Please have social work at ___ follow up on getting the 
family set up with a two bedroom apartment
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carbamazepine (Extended-Release) 200 mg PO DAILY 
2. Donepezil 10 mg PO QHS 
3. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
4. Docusate Sodium 100 mg PO BID:PRN constipation 
5. Senna 8.6 mg PO BID:PRN constipation 
6. QUEtiapine Fumarate 100 mg PO QHS 

 
Discharge Medications:
1.  Carbamazepine (Extended-Release) 200 mg PO DAILY  
2.  Docusate Sodium 100 mg PO BID:PRN constipation  
3.  Donepezil 10 mg PO QHS  
4.  QUEtiapine Fumarate 100 mg PO QHS  
5.  Senna 8.6 mg PO BID:PRN constipation  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: Alzheimer's Dementia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___ and ___,

You were admitted to ___ because there was concern that you 
were not eating anymore. 

At this hospital, we found that you were eating somewhat still. 
We believe that decreased appetite is a natural part of your 
Alzheimer dementia as it progresses. 

When you leave the hospital, we have set up for Seasons hospice 
to come with visiting nurses to help care for you. When you 
completely stop eating, they will transition you to hospice 
care. 

It was a pleasure taking care of you,

Your ___ Team
 
Followup Instructions:
___